.subckt PM_AOI211xp5_ASAP7_75t_R%A2 vss 19 8 14 7 3 1 5
c1 1 vss 0.00336818f $X=0.081 $Y=0.135
c2 3 vss 0.0676052f $X=0.081 $Y=0.0245
c3 4 vss 0.00157729f $X=0.027 $Y=0.135
c4 5 vss 0.00598038f $X=0.027 $Y=0.098
c5 6 vss 0.00866093f $X=0.027 $Y=0.154
c6 7 vss 0.00284096f $X=0.056 $Y=0.135
r1 19 18 2.73998 $w=1.3e-08 $l=1.18e-08 $layer=M1 $thickness=3.6e-08 $X=0.023
+ $Y=0.187 $X2=0.027 $Y2=0.1752
r2 6 18 4.95528 $w=1.3e-08 $l=2.12e-08 $layer=M1 $thickness=3.6e-08 $X=0.027
+ $Y=0.154 $X2=0.027 $Y2=0.1752
r3 4 17 1.38478 $w=1.70909e-08 $l=1.1e-08 $layer=M1 $thickness=3.6e-08 $X=0.027
+ $Y=0.135 $X2=0.038 $Y2=0.135
r4 4 5 7.44771 $w=1.42162e-08 $l=3.7e-08 $layer=M1 $thickness=3.6e-08 $X=0.027
+ $Y=0.135 $X2=0.027 $Y2=0.098
r5 4 6 3.2503 $w=1.53684e-08 $l=1.9e-08 $layer=M1 $thickness=3.6e-08 $X=0.027
+ $Y=0.135 $X2=0.027 $Y2=0.154
r6 7 16 5.82974 $w=1.3e-08 $l=2.5e-08 $layer=M1 $thickness=3.6e-08 $X=0.056
+ $Y=0.135 $X2=0.081 $Y2=0.135
r7 7 17 4.19742 $w=1.3e-08 $l=1.8e-08 $layer=M1 $thickness=3.6e-08 $X=0.056
+ $Y=0.135 $X2=0.038 $Y2=0.135
r8 1 11 10.4265 $w=1.765e-08 $layer=LIG $thickness=5.2e-08 $X=0.081 $Y=0.135
+ $X2=0.081 $Y2=0.135
r9 1 16 19.3796 $a=3.24e-16 $layer=V0LIG $X=0.081 $Y=0.135 $X2=0.081 $Y2=0.135
r10 14 13 14.6259 $w=2.1e-08 $l=4.3e-08 $layer=Gate_1 $thickness=5.6e-08
+ $X=0.081 $Y=0.2025 $X2=0.081 $Y2=0.1595
r11 12 13 2.7211 $w=2.1e-08 $l=8e-09 $layer=Gate_1 $thickness=5.6e-08 $X=0.081
+ $Y=0.1515 $X2=0.081 $Y2=0.1595
r12 11 12 5.79936 $w=2.03333e-08 $l=1.65e-08 $layer=Gate_1 $thickness=5.6e-08
+ $X=0.081 $Y=0.135 $X2=0.081 $Y2=0.1515
r13 10 11 5.79936 $w=2.03333e-08 $l=1.65e-08 $layer=Gate_1 $thickness=5.6e-08
+ $X=0.081 $Y=0.1185 $X2=0.081 $Y2=0.135
r14 9 10 7.31297 $w=2.1e-08 $l=2.15e-08 $layer=Gate_1 $thickness=5.6e-08
+ $X=0.081 $Y=0.097 $X2=0.081 $Y2=0.1185
r15 8 9 14.6259 $w=2.1e-08 $l=4.3e-08 $layer=Gate_1 $thickness=5.6e-08 $X=0.081
+ $Y=0.054 $X2=0.081 $Y2=0.097
r16 8 3 10.0341 $w=2.1e-08 $l=2.95e-08 $layer=Gate_1 $thickness=5.6e-08
+ $X=0.081 $Y=0.054 $X2=0.081 $Y2=0.0245
.ends

.subckt PM_AOI211xp5_ASAP7_75t_R%Y vss 38 19 34 35 50 51 2 15 12 1 16 10 3 11 17
c1 1 vss 0.00636168f $X=0.054 $Y=0.054
c2 2 vss 0.00980012f $X=0.108 $Y=0.2025
c3 3 vss 0.00719137f $X=0.216 $Y=0.054
c4 10 vss 0.0272315f $X=0.056 $Y=0.054
c5 11 vss 0.00359529f $X=0.2015 $Y=0.054
c6 12 vss 0.00455565f $X=0.0935 $Y=0.2025
c7 13 vss 0.00299933f $X=0.297 $Y=0.036
c8 14 vss 0.00192517f $X=0.297 $Y=0.198
c9 15 vss 0.0218723f $X=0.0425 $Y=0.036
c10 16 vss 0.0137956f $X=0.27 $Y=0.198
c11 17 vss 0.00576235f $X=0.297 $Y=0.0575
r1 51 49 0.0308642 $w=8.1e-08 $l=2.5e-09 $layer=P_src_drn $thickness=1e-09
+ $X=0.1253 $Y=0.2025 $X2=0.1225 $Y2=0.2025
r2 2 49 0.179012 $w=8.1e-08 $l=1.45e-08 $layer=P_src_drn $thickness=1e-09
+ $X=0.108 $Y=0.2025 $X2=0.1225 $Y2=0.2025
r3 12 2 0.179012 $w=8.1e-08 $l=1.45e-08 $layer=P_src_drn $thickness=1e-09
+ $X=0.0935 $Y=0.2025 $X2=0.108 $Y2=0.2025
r4 50 12 0.0308642 $w=8.1e-08 $l=2.5e-09 $layer=P_src_drn $thickness=1e-09
+ $X=0.0906 $Y=0.2025 $X2=0.0935 $Y2=0.2025
r5 2 46 19.3796 $a=3.24e-16 $layer=V0LISD $X=0.108 $Y=0.2025 $X2=0.108 $Y2=0.198
r6 46 47 3.14806 $w=1.3e-08 $l=1.35e-08 $layer=M1 $thickness=3.6e-08 $X=0.108
+ $Y=0.198 $X2=0.1215 $Y2=0.198
r7 45 47 3.14806 $w=1.3e-08 $l=1.35e-08 $layer=M1 $thickness=3.6e-08 $X=0.135
+ $Y=0.198 $X2=0.1215 $Y2=0.198
r8 44 45 5.82974 $w=1.3e-08 $l=2.5e-08 $layer=M1 $thickness=3.6e-08 $X=0.16
+ $Y=0.198 $X2=0.135 $Y2=0.198
r9 43 44 4.19742 $w=1.3e-08 $l=1.8e-08 $layer=M1 $thickness=3.6e-08 $X=0.178
+ $Y=0.198 $X2=0.16 $Y2=0.198
r10 42 43 2.56509 $w=1.3e-08 $l=1.1e-08 $layer=M1 $thickness=3.6e-08 $X=0.189
+ $Y=0.198 $X2=0.178 $Y2=0.198
r11 41 42 6.29612 $w=1.3e-08 $l=2.7e-08 $layer=M1 $thickness=3.6e-08 $X=0.216
+ $Y=0.198 $X2=0.189 $Y2=0.198
r12 40 41 6.29612 $w=1.3e-08 $l=2.7e-08 $layer=M1 $thickness=3.6e-08 $X=0.243
+ $Y=0.198 $X2=0.216 $Y2=0.198
r13 16 40 6.29612 $w=1.3e-08 $l=2.7e-08 $layer=M1 $thickness=3.6e-08 $X=0.27
+ $Y=0.198 $X2=0.243 $Y2=0.198
r14 14 39 2.37341 $w=1.8113e-08 $l=1.73e-08 $layer=M1 $thickness=3.6e-08
+ $X=0.297 $Y=0.198 $X2=0.297 $Y2=0.1807
r15 14 16 4.64701 $w=1.46667e-08 $l=2.7e-08 $layer=M1 $thickness=3.6e-08
+ $X=0.297 $Y=0.198 $X2=0.27 $Y2=0.198
r16 38 39 2.04041 $w=1.3e-08 $l=8.7e-09 $layer=M1 $thickness=3.6e-08 $X=0.299
+ $Y=0.172 $X2=0.297 $Y2=0.1807
r17 38 37 0.991056 $w=1.3e-08 $l=4.3e-09 $layer=M1 $thickness=3.6e-08 $X=0.299
+ $Y=0.172 $X2=0.297 $Y2=0.1677
r18 36 37 11.8344 $w=1.3e-08 $l=5.07e-08 $layer=M1 $thickness=3.6e-08 $X=0.297
+ $Y=0.117 $X2=0.297 $Y2=0.1677
r19 17 36 13.8748 $w=1.3e-08 $l=5.95e-08 $layer=M1 $thickness=3.6e-08 $X=0.297
+ $Y=0.0575 $X2=0.297 $Y2=0.117
r20 35 33 0.0462963 $w=5.4e-08 $l=2.5e-09 $layer=N_src_drn $thickness=1e-09
+ $X=0.2333 $Y=0.054 $X2=0.2305 $Y2=0.054
r21 3 33 0.268519 $w=5.4e-08 $l=1.45e-08 $layer=N_src_drn $thickness=1e-09
+ $X=0.216 $Y=0.054 $X2=0.2305 $Y2=0.054
r22 11 3 0.268519 $w=5.4e-08 $l=1.45e-08 $layer=N_src_drn $thickness=1e-09
+ $X=0.2015 $Y=0.054 $X2=0.216 $Y2=0.054
r23 34 11 0.0462963 $w=5.4e-08 $l=2.5e-09 $layer=N_src_drn $thickness=1e-09
+ $X=0.1986 $Y=0.054 $X2=0.2015 $Y2=0.054
r24 13 31 4.64701 $w=1.46667e-08 $l=2.7e-08 $layer=M1 $thickness=3.6e-08
+ $X=0.297 $Y=0.036 $X2=0.27 $Y2=0.036
r25 13 17 3.36447 $w=1.71023e-08 $l=2.15e-08 $layer=M1 $thickness=3.6e-08
+ $X=0.297 $Y=0.036 $X2=0.297 $Y2=0.0575
r26 3 28 19.3796 $a=3.24e-16 $layer=V0LISD $X=0.216 $Y=0.054 $X2=0.216 $Y2=0.036
r27 30 31 6.29612 $w=1.3e-08 $l=2.7e-08 $layer=M1 $thickness=3.6e-08 $X=0.243
+ $Y=0.036 $X2=0.27 $Y2=0.036
r28 29 30 3.14806 $w=1.3e-08 $l=1.35e-08 $layer=M1 $thickness=3.6e-08 $X=0.2295
+ $Y=0.036 $X2=0.243 $Y2=0.036
r29 28 29 3.14806 $w=1.3e-08 $l=1.35e-08 $layer=M1 $thickness=3.6e-08 $X=0.216
+ $Y=0.036 $X2=0.2295 $Y2=0.036
r30 27 28 3.14806 $w=1.3e-08 $l=1.35e-08 $layer=M1 $thickness=3.6e-08 $X=0.2025
+ $Y=0.036 $X2=0.216 $Y2=0.036
r31 26 27 3.14806 $w=1.3e-08 $l=1.35e-08 $layer=M1 $thickness=3.6e-08 $X=0.189
+ $Y=0.036 $X2=0.2025 $Y2=0.036
r32 25 26 6.29612 $w=1.3e-08 $l=2.7e-08 $layer=M1 $thickness=3.6e-08 $X=0.162
+ $Y=0.036 $X2=0.189 $Y2=0.036
r33 24 25 6.29612 $w=1.3e-08 $l=2.7e-08 $layer=M1 $thickness=3.6e-08 $X=0.135
+ $Y=0.036 $X2=0.162 $Y2=0.036
r34 23 24 5.24677 $w=1.3e-08 $l=2.25e-08 $layer=M1 $thickness=3.6e-08 $X=0.1125
+ $Y=0.036 $X2=0.135 $Y2=0.036
r35 22 23 4.19742 $w=1.3e-08 $l=1.8e-08 $layer=M1 $thickness=3.6e-08 $X=0.0945
+ $Y=0.036 $X2=0.1125 $Y2=0.036
r36 21 22 4.19742 $w=1.3e-08 $l=1.8e-08 $layer=M1 $thickness=3.6e-08 $X=0.0765
+ $Y=0.036 $X2=0.0945 $Y2=0.036
r37 20 21 5.24677 $w=1.3e-08 $l=2.25e-08 $layer=M1 $thickness=3.6e-08 $X=0.054
+ $Y=0.036 $X2=0.0765 $Y2=0.036
r38 15 20 2.68168 $w=1.3e-08 $l=1.15e-08 $layer=M1 $thickness=3.6e-08 $X=0.0425
+ $Y=0.036 $X2=0.054 $Y2=0.036
r39 1 20 19.3796 $a=3.24e-16 $layer=V0LISD $X=0.054 $Y=0.054 $X2=0.054 $Y2=0.036
r40 19 18 0.0462963 $w=5.4e-08 $l=2.5e-09 $layer=N_src_drn $thickness=1e-09
+ $X=0.0713 $Y=0.054 $X2=0.0685 $Y2=0.054
r41 10 18 0.231482 $w=5.4e-08 $l=1.25e-08 $layer=N_src_drn $thickness=1e-09
+ $X=0.056 $Y=0.054 $X2=0.0685 $Y2=0.054
r42 1 10 1e-05 $l=2e-09 $X=0.054 $Y=0.054 $X2=0.056 $Y2=0.054
.ends

.subckt PM_AOI211xp5_ASAP7_75t_R%A1 vss 12 5 9 4 3 1
c1 1 vss 0.00604212f $X=0.135 $Y=0.135
c2 3 vss 0.0890051f $X=0.135 $Y=0.0245
c3 4 vss 0.0038302f $X=0.135 $Y=0.135
r1 12 13 2.04041 $w=1.3e-08 $l=8.7e-09 $layer=M1 $thickness=3.6e-08 $X=0.134
+ $Y=0.109 $X2=0.135 $Y2=0.1177
r2 4 13 4.02252 $w=1.3e-08 $l=1.73e-08 $layer=M1 $thickness=3.6e-08 $X=0.135
+ $Y=0.135 $X2=0.135 $Y2=0.1177
r3 1 7 10.4265 $w=1.765e-08 $layer=LIG $thickness=5.2e-08 $X=0.135 $Y=0.135
+ $X2=0.135 $Y2=0.135
r4 1 4 19.3796 $a=3.24e-16 $layer=V0LIG $X=0.135 $Y=0.135 $X2=0.135 $Y2=0.135
r5 9 8 16.4967 $w=2.1e-08 $l=4.85e-08 $layer=Gate_1 $thickness=5.6e-08 $X=0.135
+ $Y=0.2025 $X2=0.135 $Y2=0.154
r6 7 8 6.6497 $w=2.04211e-08 $l=1.9e-08 $layer=Gate_1 $thickness=5.6e-08
+ $X=0.135 $Y=0.135 $X2=0.135 $Y2=0.154
r7 6 7 11.2416 $w=2.06615e-08 $l=3.25e-08 $layer=Gate_1 $thickness=5.6e-08
+ $X=0.135 $Y=0.1025 $X2=0.135 $Y2=0.135
r8 5 6 16.4967 $w=2.1e-08 $l=4.85e-08 $layer=Gate_1 $thickness=5.6e-08 $X=0.135
+ $Y=0.054 $X2=0.135 $Y2=0.1025
r9 5 3 10.0341 $w=2.1e-08 $l=2.95e-08 $layer=Gate_1 $thickness=5.6e-08 $X=0.135
+ $Y=0.054 $X2=0.135 $Y2=0.0245
.ends

.subckt PM_AOI211xp5_ASAP7_75t_R%B vss 13 5 9 4 3
c1 1 vss 0.00566373f $X=0.189 $Y=0.135
c2 3 vss 0.0947311f $X=0.189 $Y=0.0245
c3 4 vss 0.0033696f $X=0.189 $Y=0.098
r1 13 12 0.524677 $w=1.3e-08 $l=2.3e-09 $layer=M1 $thickness=3.6e-08 $X=0.188
+ $Y=0.148 $X2=0.189 $Y2=0.1457
r2 11 12 2.50679 $w=1.3e-08 $l=1.07e-08 $layer=M1 $thickness=3.6e-08 $X=0.189
+ $Y=0.135 $X2=0.189 $Y2=0.1457
r3 4 11 8.62802 $w=1.3e-08 $l=3.7e-08 $layer=M1 $thickness=3.6e-08 $X=0.189
+ $Y=0.098 $X2=0.189 $Y2=0.135
r4 1 7 10.4265 $w=1.765e-08 $layer=LIG $thickness=5.2e-08 $X=0.189 $Y=0.135
+ $X2=0.189 $Y2=0.135
r5 1 11 19.3796 $a=3.24e-16 $layer=V0LIG $X=0.189 $Y=0.135 $X2=0.189 $Y2=0.135
r6 9 8 16.4967 $w=2.1e-08 $l=4.85e-08 $layer=Gate_1 $thickness=5.6e-08 $X=0.189
+ $Y=0.2025 $X2=0.189 $Y2=0.154
r7 7 8 6.6497 $w=2.04211e-08 $l=1.9e-08 $layer=Gate_1 $thickness=5.6e-08
+ $X=0.189 $Y=0.135 $X2=0.189 $Y2=0.154
r8 6 7 11.2416 $w=2.06615e-08 $l=3.25e-08 $layer=Gate_1 $thickness=5.6e-08
+ $X=0.189 $Y=0.1025 $X2=0.189 $Y2=0.135
r9 5 6 16.4967 $w=2.1e-08 $l=4.85e-08 $layer=Gate_1 $thickness=5.6e-08 $X=0.189
+ $Y=0.054 $X2=0.189 $Y2=0.1025
r10 5 3 10.0341 $w=2.1e-08 $l=2.95e-08 $layer=Gate_1 $thickness=5.6e-08
+ $X=0.189 $Y=0.054 $X2=0.189 $Y2=0.0245
.ends

.subckt PM_AOI211xp5_ASAP7_75t_R%C vss 13 5 11 4 3
c1 1 vss 0.00414166f $X=0.243 $Y=0.135
c2 3 vss 0.0993228f $X=0.243 $Y=0.0245
c3 4 vss 0.00548343f $X=0.243 $Y=0.0962
r1 14 15 2.39019 $w=1.3e-08 $l=1.03e-08 $layer=M1 $thickness=3.6e-08 $X=0.243
+ $Y=0.1247 $X2=0.243 $Y2=0.135
r2 13 14 0.408082 $w=1.3e-08 $l=1.7e-09 $layer=M1 $thickness=3.6e-08 $X=0.241
+ $Y=0.123 $X2=0.243 $Y2=0.1247
r3 13 4 6.23783 $w=1.3e-08 $l=2.68e-08 $layer=M1 $thickness=3.6e-08 $X=0.241
+ $Y=0.123 $X2=0.243 $Y2=0.0962
r4 1 8 10.4265 $w=1.765e-08 $layer=LIG $thickness=5.2e-08 $X=0.243 $Y=0.135
+ $X2=0.243 $Y2=0.135
r5 1 15 19.3796 $a=3.24e-16 $layer=V0LIG $X=0.243 $Y=0.135 $X2=0.243 $Y2=0.135
r6 11 10 14.6259 $w=2.1e-08 $l=4.3e-08 $layer=Gate_1 $thickness=5.6e-08
+ $X=0.243 $Y=0.2025 $X2=0.243 $Y2=0.1595
r7 9 10 2.7211 $w=2.1e-08 $l=8e-09 $layer=Gate_1 $thickness=5.6e-08 $X=0.243
+ $Y=0.1515 $X2=0.243 $Y2=0.1595
r8 8 9 5.79936 $w=2.03333e-08 $l=1.65e-08 $layer=Gate_1 $thickness=5.6e-08
+ $X=0.243 $Y=0.135 $X2=0.243 $Y2=0.1515
r9 7 8 5.79936 $w=2.03333e-08 $l=1.65e-08 $layer=Gate_1 $thickness=5.6e-08
+ $X=0.243 $Y=0.1185 $X2=0.243 $Y2=0.135
r10 6 7 7.31297 $w=2.1e-08 $l=2.15e-08 $layer=Gate_1 $thickness=5.6e-08
+ $X=0.243 $Y=0.097 $X2=0.243 $Y2=0.1185
r11 5 6 14.6259 $w=2.1e-08 $l=4.3e-08 $layer=Gate_1 $thickness=5.6e-08 $X=0.243
+ $Y=0.054 $X2=0.243 $Y2=0.097
r12 5 3 10.0341 $w=2.1e-08 $l=2.95e-08 $layer=Gate_1 $thickness=5.6e-08
+ $X=0.243 $Y=0.054 $X2=0.243 $Y2=0.0245
.ends


* End of included file AOI211xp5_ASAP7_75t_R.pex.sp.pex



*
.subckt AOI211xp5_ASAP7_75t_CUSTOM_4_25_0_7 VSS VDD A2 A1 B C Y
*
* VSS VSS
* VDD VDD
* A2 A2
* A1 A1
* B B
* C C
* Y Y
*
*

M0 noxref_9 N_M0_g N_M0_s VSS nmos_rvt L=2e-08 W=5.4e-08 nfin=2 $X=0.071
+ $Y=0.027
M1 VSS N_M1_g noxref_9 VSS nmos_rvt L=2e-08 W=5.4e-08 nfin=2 $X=0.125 $Y=0.027
M2 N_M2_d N_M2_g VSS VSS nmos_rvt L=2e-08 W=5.4e-08 nfin=2 $X=0.179 $Y=0.027
M3 VSS N_M3_g N_M3_s VSS nmos_rvt L=2e-08 W=5.4e-08 nfin=2 $X=0.233 $Y=0.027
M4 N_M4_d N_M4_g noxref_7 VDD pmos_rvt L=2e-08 W=8.1e-08 nfin=3 $X=0.071
+ $Y=0.162
M5 noxref_7 N_M5_g N_M5_s VDD pmos_rvt L=2e-08 W=8.1e-08 nfin=3 $X=0.125
+ $Y=0.162
M6 noxref_10 N_M6_g noxref_7 VDD pmos_rvt L=2e-08 W=8.1e-08 nfin=3 $X=0.179
+ $Y=0.162
M7 VDD N_M7_g noxref_10 VDD pmos_rvt L=2e-08 W=8.1e-08 nfin=3 $X=0.233 $Y=0.162


* .include "AOI211xp5_ASAP7_75t_R.pex.sp.pxi"

* Start of included file AOI211xp5_ASAP7_75t_R.pex.sp.pxi
x_PM_AOI211xp5_ASAP7_75t_R%A2 vss A2 N_M0_g N_M4_g N_A2_7 N_A2_3 N_A2_1 N_A2_5
+ PM_AOI211xp5_ASAP7_75t_R%A2
x_PM_AOI211xp5_ASAP7_75t_R%Y vss Y N_M0_s N_M2_d N_M3_s N_M4_d N_M5_s N_Y_2
+ N_Y_15 N_Y_12 N_Y_1 N_Y_16 N_Y_10 N_Y_3 N_Y_11 N_Y_17
+ PM_AOI211xp5_ASAP7_75t_R%Y
cc_1 N_Y_2 N_A2_3 0.000804566f $X=0.108 $Y=0.2025
cc_2 N_Y_15 N_A2_7 0.000977091f $X=0.0425 $Y=0.036
cc_3 N_Y_12 N_A2_1 0.00109737f $X=0.0935 $Y=0.2025
cc_4 N_Y_1 N_A2_3 0.00111543f $X=0.054 $Y=0.054
cc_5 N_Y_16 N_A2_7 0.00111613f $X=0.27 $Y=0.198
cc_6 N_Y_15 N_A2_5 0.00130325f $X=0.0425 $Y=0.036
cc_7 N_Y_10 N_A2_3 0.010763f $X=0.056 $Y=0.054
cc_8 N_Y_12 N_A2_3 0.0508547f $X=0.0935 $Y=0.2025
cc_9 N_Y_12 N_A1_1 0.000863978f $X=0.0935 $Y=0.2025
cc_10 N_Y_16 N_A1_4 0.0010961f $X=0.27 $Y=0.198
cc_11 N_Y_15 N_A1_4 0.00136584f $X=0.0425 $Y=0.036
cc_12 N_Y_2 N_A1_4 0.00286123f $X=0.108 $Y=0.2025
cc_13 N_Y_12 N_A1_3 0.0364623f $X=0.0935 $Y=0.2025
cc_14 N_Y_15 N_B_4 0.00108437f $X=0.0425 $Y=0.036
cc_15 N_Y_16 N_B_4 0.00136411f $X=0.27 $Y=0.198
cc_16 N_Y_3 N_B_4 0.00276036f $X=0.216 $Y=0.054
cc_17 N_Y_11 N_B_3 0.0261142f $X=0.2015 $Y=0.054
cc_18 N_Y_15 N_C_3 0.000991068f $X=0.0425 $Y=0.036
cc_19 N_Y_16 N_C_4 0.00132783f $X=0.27 $Y=0.198
cc_20 N_Y_17 N_C_4 0.00634883f $X=0.297 $Y=0.0575
cc_21 N_Y_11 N_C_3 0.026589f $X=0.2015 $Y=0.054
x_PM_AOI211xp5_ASAP7_75t_R%A1 vss A1 N_M1_g N_M5_g N_A1_4 N_A1_3 N_A1_1
+ PM_AOI211xp5_ASAP7_75t_R%A1
cc_22 N_A1_4 N_A2_7 0.00192825f $X=0.135 $Y=0.135
cc_23 N_A1_3 N_A2_3 0.00892528f $X=0.135 $Y=0.0245
x_PM_AOI211xp5_ASAP7_75t_R%B vss B N_M2_g N_M6_g N_B_4 N_B_3
+ PM_AOI211xp5_ASAP7_75t_R%B
cc_24 N_B_4 N_A1_4 0.00331719f $X=0.189 $Y=0.098
cc_25 N_B_3 N_A1_3 0.00714584f $X=0.189 $Y=0.0245
x_PM_AOI211xp5_ASAP7_75t_R%C vss C N_M3_g N_M7_g N_C_4 N_C_3
+ PM_AOI211xp5_ASAP7_75t_R%C
cc_26 N_C_4 N_B_4 0.0033087f $X=0.243 $Y=0.0962
cc_27 N_C_3 N_B_3 0.0091415f $X=0.243 $Y=0.0245


* End of included file AOI211xp5_ASAP7_75t_R.pex.sp.pxi
.ends
